Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
Left hand incision and drainage (___)
Left ankle abscess incision and drainage (___)

 
History of Present Illness:
This is a ___ y/o homeless woman with a hx of injection fentanyl, 
heroin, and cocaine use complicated by hepatitis C and 
endocarditis presenting with 1 week of L hand & L ankle 
cellulitis.

She was admitted to ___ 1 month ago for similar presentation 
involving L hand when she underwent surgical I&D, found to MRSA 
___ L hand abscess, discharged on cefpodoxime and clindamycin. 

She stopped taking her ABX one week after d/c and used both her 
hand and her L ankle to inject. However, she also injects 
"wherever" she can find a vein. She denies sharing needles, but 
after her last d/c she used an "old needle" that she had used 
prior to her ___ admission and she believes her new infection is 
caused by the same bacteria that caused her past 
hospitalization. She endorses licking her needles before 
injecting. 

She began to notice redness, swelling, and progressive pain 1 
week before presentation. She began taking 1200mg Motrin ___ the 
morning and evening "a few days" before presentation d/t pain. 
However, she says she put off going to the hospital b/c her 
grandmother passed away. After the services for her grandmother, 
pt presented to the ___ where she was medicated with 
multiple doses of fentanyl and dilaudid IV + IV vancomycin, then 
transferred to ___ ___ for surgical evaluation.
 
___ the ___, initial vitals were: T 98.1 HR 89 ___ 99%RA

Labs notable for Hgb 9.2. Positive urine opiates and cocaine. 

L hand XR showed diffuse soft tissue swelling.  No foreign body.

L ankle XR showed no suspicious lytic or sclerotic lesion. No 
evidence of foreign body.

Prior to arrival on the floor, she underwent I&D with Hand 
Surgery ___ the ___ at the bedside. This was uncomplicated and 
samples were 
obtained for microbiology studies. She had wrist/hand nerve 
blocks done. 

On the floor, patient was resting comfortably but endorsing left 

hand and L ankle pain. She denied chest pain, dyspnea, nausea, 
vomiting, or abdominal pain.   
 
Past Medical History:
Polysubstance abuse
Endocarditis 
Hepatitis C 
S/p ovarian wedge resection for tumor  
S/p right hand abscess I&D  
S/p tonsillectomy  
 
Social History:
___
Family History:
-Denies family history of hypertension, hyperlipidemia, or 
diabetes. 
-She says that her mother used cocaine when she was pregnant.
 
Physical Exam:
#ERROR!
ADMISSION EXAM
#ERROR!
Vital Signs: T 98.2 PO BP 109/62 HR 78 RR 20 O2 98 ra 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MM dry, oropharynx clear, no caries or 
erosions, no lesions, no thrush, EOMI, PERRL, neck supple, JVP 
not elevated, no LAD. Yawning frequently. Lacrimation present. 
CV: Regular rate and rhythm, normal S1 + S2, systolic III/VI 
murmur heard best at the apex, no rubs or gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
liver tip was smooth and percussed to 10cm ___ the midclavicular 
line, no rebound or guarding
GU: No foley  
Ext: Left hand wrapped and elevated. L ankle wrapped ___ clean 
dressing. LLE with erythema extending up to mid-calf knee and 
non-pitting edema.
Neuro: CNII-XII grossly intact, ___ strength upper/lower 
extremities, however ROE limited by pain ___ L wrist and L ankle. 
Grossly normal sensation, gait deferred. 
Psych: score on ___ scale for withdrawal symptoms was ___ at 
0900.

#ERROR!
DISCHARGE EXAM
#ERROR!
PHYSICAL EXAM: 
Vital Signs: 98.1 PO, 114 / 61, 57, 16, 100 RA 
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, EOMI intact.
NECK: No palpable lymphadenopathy. 
CV: Regular rate and rhythm, S1 and S2 audible, systolic III/VI
murmur heard best at the apex, no rubs or gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present
Ext: Left hand wrapped and elevated, dressing c/d/i. L ankle
dressing c/d/i. Non-pitting edema on the LLE.
Neuro: CNII-XII grossly intact
Psych: score on ___ scale for withdrawal symptoms was 5 at 1200
 
Pertinent Results:
#ERROR!
ADMISSION LABS
#ERROR!
___ 02:55AM   GLUCOSE-103* UREA N-5* CREAT-0.7 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-25 ANION GAP-15
___ 02:55AM   estGFR-Using this
___ 02:55AM   ALT(SGPT)-8 AST(SGOT)-17 ALK PHOS-93 TOT 
BILI-0.3
___ 02:55AM   ALBUMIN-3.4*
___ 02:55AM   RHEU FACT-<10 CRP-81.3*
___ 02:55AM   WBC-5.9 RBC-3.80* HGB-9.2* HCT-30.1* MCV-79* 
MCH-24.2* MCHC-30.6* RDW-16.1* RDWSD-46.8*
___ 02:55AM   NEUTS-44.1 ___ MONOS-8.6 EOS-4.6 
BASOS-1.0 IM ___ AbsNeut-2.60 AbsLymp-2.34 AbsMono-0.51 
AbsEos-0.27 AbsBaso-0.06
___ 02:55AM   PLT COUNT-565*
___ 01:18AM URINE  HOURS-RANDOM
___ 01:18AM URINE  UCG-NEG
___ 01:18AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:18AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

#ERROR!
IMAGING
#ERROR!
___ HAND (PA,LAT AND OBLIQUE) LEFT 
IMPRESSION:  
Diffuse soft tissue swelling.  No foreign body. 

___ ANKLE (AP, MORTISE & LAT) LEFT; FOOT AP,LAT & OBL LEFT
IMPRESSION:
No evidence of foreign body

#ERROR!
MICROBIOLOGY
#ERROR!
SWAB L ANKLE
   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS. 

   WOUND CULTURE (Final ___: 
      BETA STREPTOCOCCUS GROUP A.    SPARSE GROWTH. 
         IDENTIFICATION PERFORMED ON CULTURE # ___ 
___. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ 
___. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

TISSUE L ANKLE
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS. 

   TISSUE (Final ___: 
      BETA STREPTOCOCCUS GROUP A.    SPARSE GROWTH. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

SENSITIVITIES: MIC expressed ___ MCG/ML                   
STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   0.5 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED.

#ERROR!
DISCHARGE LABS
#ERROR!
___ 07:36AM BLOOD WBC-6.2 RBC-4.26 Hgb-10.4* Hct-33.9* 
MCV-80* MCH-24.4* MCHC-30.7* RDW-16.8* RDWSD-47.9* Plt ___
___ 07:36AM BLOOD Plt ___
___ 07:36AM BLOOD Glucose-100 UreaN-11 Creat-0.7 Na-141 
K-4.1 Cl-105 HCO3-26 AnGap-14
___ 07:36AM BLOOD Calcium-9.4 Phos-4.6* Mg-2.1 Iron-PND
 
Brief Hospital Course:
Brief Hospital Course:
___ female with a history of injection fentanyl, heroin, and  
cocaine use, endocarditis, and chronic HCV, who presented with a 
1 week history of left dorsal hand and left ankle arm abscesses, 
s/p I&D, and ABX treatment. 

# Left hand, left foot cellulitis and abscesses: Ms. ___ 
presented to an OSH and received vanc/zosyn prior to transfer to 
___. ___ the ER, a bedside I&D was performed on ___. Later on 
___, she was taken to the OR by the Podiatric Surgery service 
for an I&D. Gram stain showed gram postive cocci ___ pairs and 
chains. The patient had a history of MRSA-positive skin swab, so 
she was treated with vancomycin and unasyn for staph, strep and 
anaerobic coverage. Infectious diseases was consulted. Tissue 
cultures grew pan-sensitive Staph aureus and Group A 
streptococcus. Final blood cultures were pending at the time of 
dishcharge. On the day of discharge, she transitioned to 
amoxicillin-clavulanic acid to complete a ___nding 
___. 
   Patient's pain was managed with hydromorphone ___ mg PO 
Q4H:PRN, gabapentin 300 mg PO TID, and IV acetaminophen 1000 mg 
IV Q6H. By time of discharge, her pain regimen was 
acetaminophen, ibuprofen and percocet.
 
# Polysubstance use disorder: Patient reports injection 
fentanyl, heroin, cocaine use complicated by hepatitis C and 
endocarditis ___ the past. She last used injected fentanyl ___ 
and cocaine ___. She was monitored on ___ protocol for opiate 
withdrawal. 
   On discharge, she expressed interest ___ establishing care at 
a ___ clinic. Social work provided information for 
follow-up clinics. Patient discharged on acetaminophen, naproxen 
and percocet ___ for management of significant pain from open 
abscess site due to the risks of opioid medications which were 
discussed extensively with the patient given her history of 
narcotic abuse. She was provided with 1 day of pain medications 
to get her to her ___ clinic the next morning.
 
#Heart murmur: Pt was found to have a III/VI holosystolic murmur 
best heard at the apex of the heart. She was aware of it. Per 
the OMR she has a history of infectious endocarditis treated at 
an OSH ___ ___. Ms. ___ was afebrile throughout her 
hospital stay, without stigmata of IE: no splinter hemorrages, 
___ nodes, ___ lesions. She had not lab findings 
suggestive of endocarditis: no leukocytosis, normal RF levels, 
no bacteremia. TTE was ordered to r/o obvious signs of infection 
such as vegetations, but was not performed prior to the patient 
being discharged. 

#Microcytic anemia: Pt was found to have low Hgb and Hct similar 
to labs performed during previous admission. Blood was tested 
for iron, transferrin (TIBC), and ferritin. Iron studies from 
prior hospitalization on ___ were consistent w/ iron 
deficiency anemia. Iron studies from this hospitalization were 
pending at the time of discharge. She was presumed to have 
persistent iron deficiency anemia, so an Rx was written for iron 
supplements at discharge. 

TRANSITIONAL ISSUES:
#ERROR!
# ANTIBIOTICS: Complete augmentin 875 mg PO BID, course for 7 
days (d7 ___
# WOUND CARE: ___ to home for dressing changes, follow-up with 
podiatry on ___
# ANEMIA: Chronically iron deficient, discharged w/ Rx for iron 
supplementation. Consider CBC ___ 3 months
# SUBSTANCE USE: Patient stated she would seek methadone 
treatment for herself, provided with contact information for 
different programs by social work
# BLOOD BORNE ILLNESS TESTING: Team will contact patient with 
results of Hep C, Hep B, and HIV testing 
# PAIN: Please evaluate her hand and titrate pain medications 
accordingly. She was discharged with acetaminophen, ibuprofen 
and percocet ___ for one day, until she could get to a 
___ clinic appointment.
- Code status: FULL (confirmed) 
- Contact: Father's cell phone, okay to leave voice mails with 
call back numbers, but do not leave any medical details, 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CloNIDine 0.1 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Moderate 
RX *acetaminophen [Tylenol Arthritis Pain] 650 mg 1 tablet(s) by 
mouth every six (6) hours Disp #*28 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO BID Duration: 7 Days 
It is important to take all of your antibiotics, otherwise the 
infection will return 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*13 Tablet Refills:*0 
3.  crutch one pair miscellaneous DAILY 
RX *crutch  use with walking daily Disp #*1 Each Refills:*0 
4.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen 400 mg 1 tablet(s) by mouth three times a day Disp 
#*21 Tablet Refills:*0 
5.  Percocet (oxyCODONE-acetaminophen) 2.5-325 mg oral DAILY:PRN 

RX *oxycodone-acetaminophen [Percocet] 5 mg-325 mg 1 tablet(s) 
by mouth daily Disp #*4 Tablet Refills:*0 
6.  CloNIDine 0.1 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
#ERROR!
L hand abscess
L food abscess
Polysubstance use

SECONDARY DIAGNOSES:
#ERROR!
Microcytic anemia
Active smoker
Chronic hepatitis C infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 
(crutches). Patient s/p L ankle I&D with partially closed wound. 
Expect to recover to full ambulation.

 
Discharge Instructions:
Dear Ms. ___,

You came to ___ because you had 
an infection ___ your hand and ___ your foot from needles.

What was done for me ___ the hospital?
- Surgeons evaluated your hand and foot. They drained your 
abscesses ___ the operating room.
- We did studies of your wound and blood to look for the cause 
of infection. We found bacteria. You received antibiotics to 
treat the infection.
- You had some symptoms of withdrawal. We treated these symptoms 
with medications.
- We offered to send you home with suboxone. You declined and 
said you would seek methadone treatment after discharge.

What should I do when I go home?
- Finish your antibiotic prescription
- Work with ___ to keep your wound clean
- Attend follow-up appointments as described below

It was a pleasure taking care of you. Wishing you all the best!

- Your ___ Team 
 
Followup Instructions:
___